US07977344B2
N2-Butyl-8-(methyloxy)-9-[4-(tetrahydro-2H-pyran-4-yl)butyl]-9H-purine-2,6-diamine
Prepared similarly to Intermediate 220 from N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate and 4-(4-bromobutyl)tetrahydro-2H-pyran.

reactant | N2-butyl-8-(methyloxy)-3H-purine-2,6-diamine trifluoroacetate | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(N=C2N1)OC)N
reactant | 4-(4-bromobutyl)tetrahydro-2H-pyran | BrCCCCC1CCOCC1 | C9H17BrO
product | N2-Butyl-8-(methyloxy)-9-[4-(tetrahydro-2H-pyran-4-yl)butyl]-9H-purine-2,6-diamine | C(CCC)NC1=NC(=C2N=C(N(C2=N1)CCCCC1CCOCC1)OC)N | C19H32N6O2
